US05905076
A mixture of (3S,4S)-3-{N-(3-phenylpropionoyl)-L-phenylalanyl}amino-4-acetoxy-azetidin-2-one (4.36 g, 10.30 mmole), 2-(tert-butyldimethylsilyl)oxy-1-phenylethanol (2.6 g, 10.30 mmole), and zinc acetate dihydrate (2.26 g, 10.30 mmole) in a mixture of benzene (70 ml) and toluene (70 ml) was refluxed overnight using Dean-Stark water separator. After cooling, the reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with water, brine and dried over sodium sulfate. After removal of the solvent, the residue was purified by silica gel column chromatography using ethyl acetate-hexane (4:3) as eluent and (3S,4R)-3-{N-(3-phenylpropionoyl)-L-phenylalanyl}amino-4-{2-(tert-butyidimethylsilyl)oxy-1-phenyl ethoxy}-azetidin-2-one was obtained (440 mg, 7% yield).

reactant | (3S,4S)-3-{N-(3-phenylpropionoyl)-L-phenylalanyl}amino-4-acetoxy-azetidin-2-one | 10.30 mmole, 4.36 g | C1(=CC=CC=C1)CCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H]1C(N[C@H]1OC(C)=O)=O | C23H25N3O5
reactant | 2-(tert-butyldimethylsilyl)oxy-1-phenylethanol | 10.30 mmole, 2.6 g | [Si](C)(C)(C(C)(C)C)OCC(O)C1=CC=CC=C1 | C14H24O2Si
reactant | water | O | H2O
solvent | benzene | 70 ml | C1=CC=CC=C1 | C6H6
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
catalyst | zinc acetate dihydrate | 10.30 mmole, 2.26 g | O.O.C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
product | (3S,4R)-3-{N-(3-phenylpropionoyl)-L-phenylalanyl}amino-4-{2-(tert-butyidimethylsilyl)oxy-1-phenyl ethoxy}-azetidin-2-one | 7% yield | C1(=CC=CC=C1)CCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H]1C(N[C@@H]1OC(CO[Si](C)(C)C(C)(C)C)C1=CC=CC=C1)=O | C35H45N3O5Si
